US05294734
To 2.46 g (6.5 mmol) of 8-(N-benzyloxycarbonylamino)-2-formylamino-3-hydroxy-4-methylene-octanoic acid methyl ester in 25 ml of tetrahydrofuran there are added 5.5 ml (46 mmol) of hexa-1,5-diene and then, dropwise at -50°, 2.6 ml (32.5 mmol) of thionyl bromide. The mixture is stirred at from 0° to 5° for 2 hours, poured into 25 ml of ice-cold saturated sodium hydrogen carbonate solution and extracted twice with 20 ml of methylene chloride each time. The organic phase is washed with 10 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated to dryness by evaporation. The resulting oil is purified by chromatography on silica gel with hexane/ethyl acetate (3:1). 8-(N-benzyloxycarbonylamino)-4-bromomethyl-2-formylamino-oct-3-enoic acid methyl ester is obtained.

reactant | 8-(N-benzyloxycarbonylamino)-2-formylamino-3-hydroxy-4-methylene-octanoic acid methyl ester | 6.5 mmol, 2.46 g | COC(C(C(C(CCCCNC(=O)OCC1=CC=CC=C1)=C)O)NC=O)=O | C19H26N2O6
reactant | hexa-1,5-diene | 46 mmol, 5.5 ml | C=CCCC=C | C6H10
reactant | thionyl bromide | 32.5 mmol, 2.6 ml | S(=O)(Br)Br | Br2OS
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 8-(N-benzyloxycarbonylamino)-4-bromomethyl-2-formylamino-oct-3-enoic acid methyl ester | COC(C(C=C(CCCCNC(=O)OCC1=CC=CC=C1)CBr)NC=O)=O | C19H25BrN2O5
